US05132106
2,4-Diamino-6-(2,2,3,3-tetrafluoropropyloxy)pyrimidine 3-oxide
2 g of sodium are introduced into 100 g of 2,2,3,3-tetrafluoropropanol at 40° C. After the addition of 10 g of 2,4-diamino-6-chloropyrimidine 3-oxide, the reaction mixture is maintained for 32 hours at 90° C.

reactant | sodium | 2 g | [Na] | Na
reactant | 2,2,3,3-tetrafluoropropanol | 100 g | FC(CO)(C(F)F)F | C3H4F4O
reactant | 2,4-diamino-6-chloropyrimidine 3-oxide | 10 g | NC1=NC(=CC(=[N+]1[O-])N)Cl | C4H5ClN4O
product | 2,4-Diamino-6-(2,2,3,3-tetrafluoropropyloxy)pyrimidine 3-oxide | NC1=NC(=CC(=[N+]1[O-])N)OCC(C(F)F)(F)F | C7H8F4N4O2
